US06498169B1
Synthesis of 4-[N-Ethyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
4-[N-ethyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine (65 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (50 mg) were condensed in the same manner as described in Example 2. The title compound was obtained after converting a free base to a tetrahydrochloride.

reactant | 4-[N-ethyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine | 65 mg | C(C)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCNCC1 | C22H31N3O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 50 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Ethyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.C(C)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C37H46N4O6.4ClH/c1-8-41(24-26-10-14-39-31(18-26)28-21-34(44-4)37(47-7)35(22-28)45-5)29-11-15-40(16-12-29)23-25-9-13-38-30(17-25)27-19-32(42-2)36(46-6)33(20-27)43-3;;;;/h9-10,13-14,17-22,29H,8,11-12,15-16,23-24H2,1-7H3;4*1H
